US04719047
Using the reductive amination procedure outlined in 1, 10-(2-chloroethyl)9-anthracenecarbaldehyde and 2-methyl-2-amino-1,3-propanediol (Aldrich) gave 2-((10-(2-chloroethyl)-9-anthracenylmethyl)amino)-2-methyl-1,3-propanediol hydrochloride mp 229°-231° (dec), (EtOH/Et2O), (C,H,Cl,N).

reactant | 10-(2-chloroethyl)9-anthracenecarbaldehyde | ClCCC1=C2C=CC=CC2=C(C2=CC=CC=C12)C=O | C17H13ClO
reactant | 2-methyl-2-amino-1,3-propanediol | CC(CO)(CO)N | C4H11NO2
product | 2-((10-(2-chloroethyl)-9-anthracenylmethyl)amino)-2-methyl-1,3-propanediol hydrochloride | Cl.ClCCC1=C2C=CC=CC2=C(C2=CC=CC=C12)CNC(CO)(CO)C | InChI=1S/C21H24ClNO2.ClH/c1-21(13-24,14-25)23-12-20-17-8-4-2-6-15(17)19(10-11-22)16-7-3-5-9-18(16)20;/h2-9,23-25H,10-14H2,1H3;1H
